US04042613
Various benzophenone derivatives were prepared in accordance with the same procedure as in Example 1 excepting that 0.2 mole of a benzaldehyde derivative was used instead of 4-dimethylaminobenzaldehyde and 0.2 mole of a halobenzene derivative was used instead of 4-trimethylsilylchlorobenzene. The particulars are set out as follows.

reactant | benzaldehyde | 0.2 mole | C(C1=CC=CC=C1)=O | C7H6O
reactant | 4-dimethylaminobenzaldehyde | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | 4-trimethylsilylchlorobenzene | C[Si](C1=CC=C(C=C1)Cl)(C)C | C9H13ClSi
product | benzophenone | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
